US08791161B2
N-{5-chloro-2-[(pyridin-3-ylmethyl)thio]phenyl}-1-benzofuran-2-sulfonamide
Following General Procedure A and B, the title compound was prepared from 2-amino-4-chloro-benzenethiol, 3-bromomethyl-pyridine hydrobromide, and benzofuran-2-sulfonyl chloride.

reactant | 2-amino-4-chloro-benzenethiol | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | 3-bromomethyl-pyridine hydrobromide | Br.BrCC=1C=NC=CC1
reactant | benzofuran-2-sulfonyl chloride | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
product | N-{5-chloro-2-[(pyridin-3-ylmethyl)thio]phenyl}-1-benzofuran-2-sulfonamide | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SCC=2C=NC=CC2 | C20H15ClN2O3S2
